US07868001B2
A mixture of N-(3-(2-bromoacetyl)-5-cyanophenyl)methanesulfonamide (0.8 mmol) and 6-chloropyridazin-3-amine (0.8 mmol) in EtOH (8 mL) was refluxed for 4 hours. After cooling, the resulting mixture was filtrated to give N-(3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-5-cyanophenyl)methanesulfonamide in 50% yield. 10% Pd/C (20 mg) was added to the solution of N-(3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-5-cyanophenyl)methanesulfonamide (0.3 mmol) in THF (25 mL. Then it was stirred at room temperature for 4 hours. After filtration, it was concentrated to give N-(3-cyano-5-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanesulfonamide in 95% yield.

reactant | N-(3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-5-cyanophenyl)methanesulfonamide | 0.3 mmol | ClC=1C=CC=2N(N1)C=C(N2)C=2C=C(C=C(C2)C#N)NS(=O)(=O)C | C14H10ClN5O2S
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | N-(3-cyano-5-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanesulfonamide | 95% yield | C(#N)C=1C=C(C=C(C1)C=1N=C2N(N=CC=C2)C1)NS(=O)(=O)C | C14H11N5O2S
